### PR TITLE
feat(2HDM): Add a couple of auxiliary lemmas & clean up code

### PR DESCRIPTION
**Pull request by jstoobysmith**
Add a small lemma to the 2HDM, and clean up the code.

### CODE REVIEW

File: PhysLean/Particles/BeyondTheStandardModel/TwoHDM/GramMatrix.lean [hunk 1]
```diff
@@ -322,6 +322,10 @@ lemma gramMatrix_surjective_det_tr (K : Matrix (Fin 2) (Fin 2) ℂ)
 noncomputable def gramVector (H : TwoHiggsDoublet) : Fin 1 ⊕ Fin 3 → ℝ := fun μ =>
   2 * PauliMatrix.pauliBasis.repr ⟨gramMatrix H, gramMatrix_selfAdjoint H⟩ μ
 
+/-- The lemma manifesting the definitional equality for the gramVector. -/
+lemma gramVector_eq (H : TwoHiggsDoublet) : H.gramVector = fun μ =>
```
Comment (morrison-daniel) [inline PhysLean/Particles/BeyondTheStandardModel/TwoHDM/GramMatrix.lean:326]:
```suggestion
lemma gramVector_eq (H : TwoHiggsDoublet) (μ : Fin 1 ⊕ Fin 3 → ℝ) : H.gramVector μ =
```
This is usually easier to read, unless you expect to need the pure function version. But I see that other definitions in the file are written this way so I'm too picky about changing this right now, but would probably be a good change in the future.

File: PhysLean/Particles/BeyondTheStandardModel/TwoHDM/GramMatrix.lean [hunk 2]
```diff
@@ -510,4 +514,16 @@ lemma gramVector_surjective (v : Fin 1 ⊕ Fin 3 → ℝ)
   · simp [gramVector_inr_two_eq_gramMatrix, hH, K]
     ring
 
+lemma mem_orbit_gaugeGroupI_iff_gramVector (H1 H2 : TwoHiggsDoublet) :
+    H1 ∈ MulAction.orbit GaugeGroupI H2 ↔ H1.gramVector = H2.gramVector := by
+  rw [mem_orbit_gaugeGroupI_iff_gramMatrix]
+  apply Iff.intro
```
Comment (morrison-daniel) [inline PhysLean/Particles/BeyondTheStandardModel/TwoHDM/GramMatrix.lean]:
```suggestion
  constructor
```
Yours is correct but I think using `constructor` is more common. Either way works.

File: PhysLean/Particles/BeyondTheStandardModel/TwoHDM/Potential.lean [hunk 3]
```diff
@@ -148,10 +148,10 @@ arXiv:hep-ph/0605184.
   potential for use with the gramVector. -/
 noncomputable def ξ (P : PotentialParameters) : Fin 1 ⊕ Fin 3 → ℝ := fun μ =>
```
Comment (morrison-daniel) [inline PhysLean/Particles/BeyondTheStandardModel/TwoHDM/Potential.lean]: Same this as above, its easier to read and means the same thing if you put mu before the colon.

**Review by morrison-daniel — DISMISSED** [review]
Looks good, here's a few style suggestions but it's up to you.

File: PhysLean/Particles/BeyondTheStandardModel/TwoHDM/GramMatrix.lean (hunk 1 above)
Comment (jstoobysmith) [reply PhysLean/Particles/BeyondTheStandardModel/TwoHDM/GramMatrix.lean:326]: changed - thanks

Comment (jstoobysmith) [reply PhysLean/Particles/BeyondTheStandardModel/TwoHDM/GramMatrix.lean:326]: Actually sorry, didn't change this one, as I think for this one wants to be able to use `rw` on `H.gramVector`, not just on `H.gramVector μ`, which the former would let you do, but the latter would not. But I have changed the one below

File: PhysLean/Particles/BeyondTheStandardModel/TwoHDM/GramMatrix.lean (hunk 2 above)
Comment (jstoobysmith) [reply PhysLean/Particles/BeyondTheStandardModel/TwoHDM/GramMatrix.lean]: Fixed

File: PhysLean/Particles/BeyondTheStandardModel/TwoHDM/Potential.lean (hunk 3 above)
Comment (jstoobysmith) [reply PhysLean/Particles/BeyondTheStandardModel/TwoHDM/Potential.lean]: Fixed

File: PhysLean/Particles/BeyondTheStandardModel/TwoHDM/GramMatrix.lean (hunk 1 above)
Comment (morrison-daniel) [reply PhysLean/Particles/BeyondTheStandardModel/TwoHDM/GramMatrix.lean:326]: Makes sense of that's the form you need, you know the context better than I do.

**Comment by jstoobysmith** [comment]
@morrison-daniel if you get chance could you approve this again?

**Review by morrison-daniel — APPROVED** [review]

**Comment by jstoobysmith** [comment]
Many  thanks :)
